US06297260B1
23a. Methyl 3-(4-oxopiperidyl)propanoate
To a suspension of 4-oxopiperidine hydrochloride monohydrate (10.0 g, 65.1 mmol) and methyl 3-bromopropanoate (7.8 ml, 71.6 mmol) in acetone (100 ml) was added K2CO3 (9.9 g, 71.6 mmol) and Et3N (9.1 ml, 65.3 mmol). The mixture was refluxed for 24 hours. The solid was removed by filtration and the solvent was evaporated. The residue was partitioned between EtOAc and H2O. The organic extracts were combined and dried over Na2SO4. The solvent was evaporated to give the title compound (15.0 g, 27.0 mmol, 42%) as an oil. 1H NMR (300 MHz, CDCI) δ 3.70 (s, 3H), 2.75-2.85 (mult, 6H), 2.52-2.57 (mult, 2H), 2.42-2.46 (mult, 4H).

reactant | 4-oxopiperidine hydrochloride monohydrate | 65.1 mmol, 10.0 g | O.Cl.O=C1CCNCC1
reactant | methyl 3-bromopropanoate | 71.6 mmol, 7.8 ml | BrCCC(=O)OC | C4H7BrO2
reactant | K2CO3 | 71.6 mmol, 9.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Et3N | 65.3 mmol, 9.1 ml | CCN(CC)CC | C6H15N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Methyl 3-(4-oxopiperidyl)propanoate | 27.0 mmol, 15.0 g, 42% | O=C1CCN(CC1)CCC(=O)OC | C9H15NO3
